US05326776
Methyl 2-aminothiazole-5-carboxylate, prepared by the procedure described in U.S. Pat. No. 4,001,421, is reacted with allyl bromide using the conditions described in Example 15A. This product is then hydrogenated using the procedure described in Example 15B to give methyl 2-propylaminothiazole-5-carboxylate.

reactant | Methyl 2-aminothiazole-5-carboxylate | NC=1SC(=CN1)C(=O)OC | C5H6N2O2S
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | methyl 2-propylaminothiazole-5-carboxylate | C(CC)NC=1SC(=CN1)C(=O)OC | C8H12N2O2S
